US04322420
4-(4'-Methoxyanilino)-7-trifluoromethylquinazoline (Compound No. 51)
5 ml of ethanol were added to a mixture of 2.3 g of 4-chloro-7-trifluoromethylquinazoline and 1.4 g of p-anisidine. The resulting mixture was heated to dissolve the solids, whereupon the solution solidified immediately. After cooling, the resulting crystals were collected by filtration and washed with, in turn, ethanol, dilute aqueous sodium hydroxide and water. The resulting crystals were recrystallized from ethanol, to give 2.5 g (yield 78%) of the desired Compound No. 51 in the form of colourless needles melting at 190°-194° C.

reactant | 4-chloro-7-trifluoromethylquinazoline | 2.3 g | ClC1=NC=NC2=CC(=CC=C12)C(F)(F)F | C9H4ClF3N2
reactant | p-anisidine | 1.4 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(4'-Methoxyanilino)-7-trifluoromethylquinazoline | 2.5 g, yield 78% | COC1=CC=C(NC2=NC=NC3=CC(=CC=C23)C(F)(F)F)C=C1 | C16H12F3N3O
